US04002640
2 G. of 1-amino-4-methylsulfonyl-2-nitrobenzene is treated in 200 ml. methanol with hydrogen at 4 atmospheres pressure in the presence of Raney nickel catalyst. The catalyst is removed by filtration and the filtrate concentrated to yield 1,2-diamino-4-methylsulfonylbenzene.

reactant | 1-amino-4-methylsulfonyl-2-nitrobenzene | NC1=C(C=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C7H8N2O4S
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | 1,2-diamino-4-methylsulfonylbenzene | NC1=C(C=C(C=C1)S(=O)(=O)C)N | C7H10N2O2S
